US06743794B2
(3S,1R)(3-Hydroxymethylcyclopentyl)carbamic Acid t-butyl Ester
(1R,3S)-3-t-Butoxycarbonylaminocyclopentanecarboxylic acid (229 mg, 1 mmol) was dissolved in THF (10 mL) and borane-THF (1.5 mL, 1M solution) was added drop-wise at 0° C. and stirred overnight at r.t. The reaction mixture was poured into ice-cold water (10 mL) and extracted with ethyl acetate (2×50 mL). The ethyl acetate extract was washed with brine, dried over sodium sulfate, filtered and evaporated to yield a semi solid (160 mg, 74%). ESMS (+): 216 (M+1)+, 250 (M+Cl)+.

reactant | (1R,3S)-3-t-Butoxycarbonylaminocyclopentanecarboxylic acid | 1 mmol, 229 mg | C(C)(C)(C)OC(=O)N[C@@H]1C[C@@H](CC1)C(=O)O | C11H19NO4
reactant | borane THF | 1M, 1.5 mL | B.C1CCOC1
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (3S,1R)(3-Hydroxymethylcyclopentyl)carbamic Acid t-butyl Ester | 160 mg, 74% | C(C)(C)(C)OC(N[C@H]1C[C@H](CC1)CO)=O | C11H21NO3
